US07538242B2
Synthesis of 3-(4-methoxyphenoxy)propylamine
In an argon atmosphere, 3-(4-methoxyphenoxy)propionitrile (5.0 g) was dissolved in tetrahydrofuran (20 mL), and a borane-tetrahydrofuran complex (1.02 mol/L, 30.0 mL) was added dropwise to the resultant solution at 80° C. over 10 minutes. The mixture was stirred for 3 hours at 80° C. Thereafter, the reaction mixture was cooled to room temperature. Under cooling on ice, 4N aqueous sodium hydroxide solution (30 mL) was added thereto over 10 minutes. Ten minutes after, the mixture was stirred at room temperature for 5 minutes, and further stirred at 80° C. for 12 hours. The mixture was cooled to room temperature, and toluene (100 mL) was added thereto, followed by stirring for 1 hour. Subsequently, after removal of insoluble matter through filtration by means of Celite, the organic layer was collected and washed sequentially with water (100 mL×2) and saturated brine (100 mL), followed by drying over sodium sulfate anhydrate (80 g). After filtration, the filtrate was concentrated under reduced pressure, to thereby yield 4.0 g of a white solid (79.0%).

reactant | 3-(4-methoxyphenoxy)propionitrile | 5.0 g | COC1=CC=C(OCCC#N)C=C1 | C10H11NO2
reactant | sodium hydroxide | 4N, 30 mL | [OH-].[Na+]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(4-methoxyphenoxy)propylamine | COC1=CC=C(OCCCN)C=C1 | C10H15NO2
